US05554607
3-(5-Chloro-2-methoxyphenyl)-1-ethyl-2-thioxo-imidazolidin-4-one
A mixture N-ethyl glycine (9.2 g), 5-chloro-2-methoxyphenyl-isothiocyanate (10 g), triethylamine (10.1 g), methylene chloride (150 mL) was heated at reflux for 3.5 hours. The mixture was evaporated to dryness. The residue collected, washed with hot ethanol and dried. Title compound (7.6 g) was obtained as a creamy solid, m.p. 171°-174° C. Anal. Calcd. for. C12H13Cl N2O2S: C, 50.61; H, 4.60; N, 9.84. Found: C, 50.33; H, 4.50; N, 9.69. Mass spectrum (El, M.+) m/z 284/286.

reactant | N-ethyl glycine | 9.2 g | C(C)NCC(=O)O | C4H9NO2
reactant | 5-chloro-2-methoxyphenyl-isothiocyanate | 10 g | ClC=1C=CC(=C(C1)N=C=S)OC | C8H6ClNOS
reactant | triethylamine | 10.1 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | 3-(5-Chloro-2-methoxyphenyl)-1-ethyl-2-thioxo-imidazolidin-4-one | 7.6 g | ClC=1C=CC(=C(C1)N1C(N(CC1=O)CC)=S)OC | C12H13ClN2O2S
